US08859571B2
A solution of phenylmethyl methyl({4-[methyl(2,2,2-trifluoroethyl)amino]-3-nitrophenyl}sulfonyl)carbamate (539 mg, 1.17 mmol) in MeOH (10 mL) at 25° C. was treated with 10% palladium on carbon (124 mg, 0.117 mmol) and stirred under an atmosphere of hydrogen (balloon) overnight before being filtered through celite. The filtrate was again filtered through a 0.45 micron syringe filter and concentrated to give 3-amino-N-methyl-4-[methyl(2,2,2-trifluoroethyl)amino]benzenesulfonamide (320 mg, 92%) as a brown oil. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.14-7.20 (m, 2 H), 7.12 (d, J=2.26 Hz, 1 H), 6.95 (dd, J=8.28, 2.26 Hz, 1 H), 5.23 (s, 2 H), 3.82 (q, J=9.87 Hz, 2 H), 2.83 (s, 3 H), 2.39 (d, J=5.02 Hz, 3 H). MS (m/z) 298.0 (M+H+).

reactant | phenylmethyl methyl({4-[methyl(2,2,2-trifluoroethyl)amino]-3-nitrophenyl}sulfonyl)carbamate | 1.17 mmol, 539 mg | CN(C(OCC1=CC=CC=C1)=O)S(=O)(=O)C1=CC(=C(C=C1)N(CC(F)(F)F)C)[N+](=O)[O-] | C18H18F3N3O6S
solvent | MeOH | 10 mL | CO | CH4O
catalyst | palladium on carbon | 0.117 mmol, 124 mg | [Pd] | Pd
product | 3-amino-N-methyl-4-[methyl(2,2,2-trifluoroethyl)amino]benzenesulfonamide | 320 mg, 92% | NC=1C=C(C=CC1N(CC(F)(F)F)C)S(=O)(=O)NC | C10H14F3N3O2S
